US06593335B1
10-(3-bromo-4-fluorophenyl)-3,4,6,7,8,10-hexahydro-2H,5H-dithiopyrano [3,2-b:2′,3′-e]pyridine, 1,1,9,9-tetraoxide
3-Bromo-4-fluorobenzaldehyde (202 mg, 1.0 mmol), tetrahydrothiopyran-3-one-1,1-dioxide (305 mg, 2.06 mmol) and 2.0 M NH3 in ethanol (0.70 mL, 1.4 mmol) were heated in ethanol (3 mL) to 80° C. for 5 days in a sealed tube, cooled, the solid precipitate collected and washed with ethanol. The solid in toluene (10 mL) was then heated to reflux overnight, cooled, the solid collected, washed with ethanol and dried to provide 129 mg of the title compound as a white solid.

reactant | 3-Bromo-4-fluorobenzaldehyde | 1.0 mmol, 202 mg | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | tetrahydrothiopyran-3-one-1,1-dioxide | 2.06 mmol, 305 mg | S1(CC(CCC1)=O)(=O)=O | C5H8O3S
reactant | NH3 | 2.0 M | N | H3N
solvent | ethanol | 3 mL | C(C)O | C2H6O
solvent | ethanol | 1.4 mmol, 0.70 mL | C(C)O | C2H6O
product | 10-(3-bromo-4-fluorophenyl)-3,4,6,7,8,10-hexahydro-2H,5H-dithiopyrano [3,2-b:2′,3′-e]pyridine | 129 mg | BrC=1C=C(C=CC1F)C1C2=C(NC3=C1SCCC3)CCCS2 | C17H17BrFNS2
